US05330741
Ornithine hydrochloride (16.8 g, 0.1 mole) was dissolved in water (20 mL), to which was added sodium hydroxide (4 g, 0.1 mole) . After completely evaporating the water using a freeze drier, methanol (100 mL) was added, and the suspension was stirred at room temperature overnight, then filtered. The clear methanol filtrate was concentrated slowly under vacuumto about 10 mL to a white slurry and solid. The white solid was collected and air dried to give ornithine (9.2 g, 70%).

reactant | Ornithine hydrochloride | 0.1 mole, 16.8 g | Cl.N[C@@H](CCCN)C(=O)O
reactant | sodium hydroxide | 0.1 mole, 4 g | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | ornithine | 9.2 g, 70% | N[C@@H](CCCN)C(=O)O | C5H12N2O2
